US07973030B2
(Step a) Synthesis of 2-fluoro-4-methylphenyl isothiocyanate
Thiophosgen (4.0 mL) (supplied from Aldrich) was added dropwise to a solution of 2-fluoro-4-methylaniline (6.31 g) (supplied from Aldrich) in 70 mL of chloroform under ice cooling, and subsequently 15 mL of triethylamine was added dropwise thereto at the same temperature. The reaction solution was stirred at room temperature overnight. Then 70 mL of 1 N hydrochloric acid was added thereto, and the mixture was separated into two liquid phases. The organic layer was washed with 70 mL of water, dried on sodium sulfate anhydrate and subsequently concentrated The residue was applied onto the silica gel column and eluted with hexane, to yield 7.72 g of the title compound.

reactant | Thiophosgen | 4.0 mL | C(=S)(Cl)Cl | CCl2S
reactant | 2-fluoro-4-methylaniline | 6.31 g | FC1=C(N)C=CC(=C1)C | C7H8FN
reactant | triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 N, 70 mL | Cl | ClH
solvent | chloroform | 70 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-fluoro-4-methylphenyl isothiocyanate | 7.72 g | FC1=C(C=CC(=C1)C)N=C=S | C8H6FNS
